US04637897
(a) Preparation of trans-4-pentylcyclohexylacetyl chloride
For conversion into the acid chloride, trans-4-pentylcyclohexylacetic acid (12.0 g, 0.0566 mol) was reacted for about 1 hour on an oil bath at 80° C. with thionyl chloride (50 ml). The solution obtained was evaporated under reduced pressure, treated with absolute toluene (50 ml) and once more evaporated under reduced pressure.

reactant | trans-4-pentylcyclohexylacetic acid | 0.0566 mol, 12.0 g | C(CCCC)[C@@H]1CC[C@H](CC1)CC(=O)O | C13H24O2
reactant | thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
product | trans-4-pentylcyclohexylacetyl chloride | C(CCCC)[C@@H]1CC[C@H](CC1)CC(=O)Cl | C13H23ClO
